US08466296B2
A 50 mL two necked flask equipped with a magnetic stir bar, gas inlet adapter and gas outlet adapter is charged with {(3S)-3-[(benzylamino)methyl]-6-nitro-2,3-dihydro-1,4-benzodioxin-5-yl}acetic acid.HCl (1.00 g, 2.53 mmol), methanol (20 mL), 1 N hydrochloric acid (2.53 mL, 2.53 mmol) and platinum (5% on carbon, 62% w/w water, 0.20 g). The flask head space is flushed with hydrogen gas (200 mL), the gas outlet adapter is closed and the slurry is stirred under a hydrogen atmosphere. After ˜1 h, no solid {(3S)-3-[benzylamino)methyl]-6-nitro-2,3-dihydro-1,4-benzodioxin-5-yl}acetic acid.HCl is visible. The mixture is stirred for an additional 1 h under hydrogen, at which point the reaction is complete by LCMS. The catalyst is removed by vacuum filtration, and the resulting solution is heated to 45° C. (external) in an oil bath for 8 h. The volatiles are removed by rotary evaporation to give a pink solid. The solids are suspended in 2-methyl tetrahydrofuran (18 mL) and water (3 mL). 1 N NaOH is added until the solids dissolved and the pH of the aqueous phase is 10 (pH paper), about 6 mL is required. The aqueous layer is removed, and the organic phase is washed with water (4 mL) and half saturated brine (3 mL). The volatiles are removed by rotary evaporation to give a brown syrup. The syrup is dissolved in absolute ethanol (3 mL) and evaporated to dryness. Absolute ethanol (3 mL) is added to the residue and removed by rotary evaporation to give crude (2S)-2-[(benzylamino)methyl]-2,3,8,9-tetrahydro-7H-[1,4]dioxino[2,3-e]indol-8-one as a brown syrup.

reactant | {(3S)-3-[(benzylamino)methyl]-6-nitro-2,3-dihydro-1,4-benzodioxin-5-yl}acetic acid | C(C1=CC=CC=C1)NC[C@@H]1OC2=C(OC1)C=CC(=C2CC(=O)O)[N+](=O)[O-] | C18H18N2O6
reactant | HCl | 2.53 mmol, 1.00 g | Cl | ClH
reactant | methanol | 20 mL | CO | CH4O
reactant | hydrochloric acid | 2.53 mmol, 1 N, 2.53 mL | Cl | ClH
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | 2-methyl tetrahydrofuran | 18 mL | CC1OCCC1 | C5H10O
solvent | water | 3 mL | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | platinum | 0.20 g | [Pt] | Pt
product | (2S)-2-[(benzylamino)methyl]-2,3,8,9-tetrahydro-7H-[1,4]dioxino[2,3-e]indol-8-one | C(C1=CC=CC=C1)NC[C@H]1COC=2C(=C3CC(NC3=CC2)=O)O1 | C18H18N2O3
